US08541592B2
(1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-ol
Palladium (10 wt. % on activated carbon, 1.50 g) was added to a solution of ((1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-yloxy)(tert-butyl)diphenylsilane (8.47 g, 18.5 mmol) in methanol (50 mL). The mixture was placed under a balloon of hydrogen. After stirring at ambient temperature for 24 h, the mixture was filtered through a pad of Celite. Solvents were removed in vacuo to give the title compound as a colorless viscous oil.

reactant | ((1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-yloxy)(tert-butyl)diphenylsilane | 18.5 mmol, 8.47 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C30H36O2Si
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Palladium | 1.50 g | [Pd] | Pd
product | (1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O | C23H30O2Si
